US04666931
There was reacted 0.95 g (5 mmole) of 2-acetyl-4-methoxybenzofuran with chlorosulfonic acid as in Example 1, yielding 1.3 g of 2-acetyl-4-methoxy-7-chlorosulfonylbenzofuran (yield: 93%, MS (m/z): 288 (M+), 273, 253 and 189). The obtained chlorosulfonyl compound was reacted with glycine ethyl ester hydrochloride to give an ester compound (yield: 97%, MS (m/z): 354 (M+), 281, 252 and 188), which was then hydrolyzed to give 2-acetyl-4-methoxy-7-(N-carboxymethylsulfamoyl)benzofuran (yellow plates, yield: 84%). The physical constants are shown in Table 4.

reactant | 2-acetyl-4-methoxybenzofuran | 5 mmole, 0.95 g | C(C)(=O)C=1OC2=C(C1)C(=CC=C2)OC | C11H10O3
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 2-acetyl-4-methoxy-7-chlorosulfonylbenzofuran | 1.3 g, yield: 93% | C(C)(=O)C=1OC2=C(C1)C(=CC=C2S(=O)(=O)Cl)OC | C11H9ClO5S
